US20010018525A1
[5′-(3-Benzyloxy-benzylcarbamoyl)-3,3″-bis-trifluoromethyl-[1,1′;3′,1″]terphenyl-2′-yloxy]-acetic acid
The title compound was prepared as a white foam (0.286 g, 74%) from [5′-(3-benzyloxy-benzylcarbamoyl)-3,3″-bis-trifluoromethyl-[1,1′;3′,1″]terphenyl-2′-yloxy]-acetic acid methyl ester using a procedure similar to step 2 of Example 192. 1H NMR (DMSO-d6) δ12.60 (bs, 1H); 9.50 (bt, 1H); 8.00-7.92 (m, 6H); 7.80-7.68 (m, 4H); 7.44-7.22 (m, 7H), 6.98-6.94 (m, 2H); 5.08 (s, 2H); 4.42 (s, 2H); 3.81 (s, 2H) IR (KBr) 3350, 2950, 1720, 1630, 1610, 1540, 1510, 1460, 1320, 1230, 1210, 1180, 1160, 1120, 1080c−1; mass spectrum [(−)ESI], m/z 678 (M−H)−; Anal. Calcd. for C37H27F6NO5: C, 65.39; H, 4.00; N, 2.06, Found: C, 63.35; H, 4.31; N, 2.59

reactant | [5′-(3-benzyloxy-benzylcarbamoyl)-3,3″-bis-trifluoromethyl-[1,1′;3′,1″]terphenyl-2′-yloxy]-acetic acid methyl ester | COC(COC1=C(C=C(C=C1C1=CC(=CC=C1)C(F)(F)F)C(NCC1=CC(=CC=C1)OCC1=CC=CC=C1)=O)C1=CC(=CC=C1)C(F)(F)F)=O | C38H29F6NO5
reactant | KBr | [K+].[Br-]
product | [5′-(3-Benzyloxy-benzylcarbamoyl)-3,3″-bis-trifluoromethyl-[1,1′;3′,1″]terphenyl-2′-yloxy]-acetic acid | C(C1=CC=CC=C1)OC=1C=C(CNC(=O)C=2C=C(C(=C(C2)C2=CC(=CC=C2)C(F)(F)F)OCC(=O)O)C2=CC(=CC=C2)C(F)(F)F)C=CC1 | C37H27F6NO5
